US06204279B1
A mixture of (1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)hydroxymethyl]-3-phenyl-propylamine (108 mg), N,N′-bis-Boc-D-ornithine (130 mg), dichloromethane (3 mL), PyBrop (164 mg) and triethylamine (195 μL) was stirred at 0° C. for 1 h, then at 25° C. for 10 h. The reaction mixture is poured into ethyl acetate, washed successively with water, 1 N HCl, saturated aqueous bicarbonate and brine. The organic layer is dried (Na2SO4), concentrated and the residue is purified by chromatography over silica gel (30% ethyl acetate/ hexane) afforded N,N′bis-Boc-(2R)-2,5-diamino-N-[(1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)-hydroxymethyl]-3-phenylpropyl]-valeramide (130 mg) which was deprotected (trifluoroacetic acid) to give the title product (107 mg) as a white powder: 1H NMR (300 MHz, D2O) δ1.35 and 1.26 (2s, 9H), 1.54 (m, 2H), 1.85-2.19 (m, 2H), 2.77 (m, 4H), 4.79 (m, 1H), 4.42 (m, 1H), 5.02 (s, 0.2H), 5.14 (d, J=3.3 Hz, 0.8H), 7.21-7.38 (m, 5H), and 7.78 (m, 1H).

reactant | (1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)hydroxymethyl]-3-phenyl-propylamine | 108 mg | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C([C@@H](CCC2=CC=CC=C2)N)O)C1 | C21H26N2O2
reactant | N,N′-bis-Boc-D-ornithine | 130 mg | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
reactant | PyBrop | 164 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 195 μL | C(C)N(CC)CC | C6H15N
product | N,N′bis-Boc-(2R)-2,5-diamino-N-[(1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)-hydroxymethyl]-3-phenylpropyl]-valeramide | 130 mg | C(=O)(OC(C)(C)C)N(C([C@@H](CCCNC(=O)OC(C)(C)C)N)=O)[C@H](CCC1=CC=CC=C1)C(O)C=1OC2=C(N1)C=C(C=C2)C(C)(C)C | C36H52N4O7
